US07737166B2
4-Cyano-7-fluoro-N,5-dimethyl-6-phenyl-N-(2-phenylethyl)-1,3-benzoxazole-2-carboxamide (I-120)
Under nitrogen atmosphere, trimethylaluminium (1.03 M n-hexane solution, 1.80 ml, 1.85 mmol) was dropwise added at room temperature to a dichloromethane (3 ml) solution of N-methylphenethylamine (269 μl, 1.85 mmol), and stirred for 25 minutes. Subsequently, a dichloromethane (3 ml) solution of ethyl 4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carboxylate (I-111) (300 mg, 925 μl) was dropwise added and stirred for 14.5 hours. After the reaction, aqueous 1 N hydrochloric acid solution was added to the reaction liquid with cooling with ice, followed by stirring at room temperature, and the reaction liquid was extracted with chloroform.

reactant | trimethylaluminium | 1.85 mmol, 1.03 M, 1.80 ml | C[Al](C)C
reactant | N-methylphenethylamine | 1.85 mmol, 269 μl | CNCCC1=CC=CC=C1 | C9H13N
reactant | ethyl 4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carboxylate | 925 μl, 300 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)OCC)F)C2=CC=CC=C2)C | C18H13FN2O3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4-Cyano-7-fluoro-N,5-dimethyl-6-phenyl-N-(2-phenylethyl)-1,3-benzoxazole-2-carboxamide | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(CCC2=CC=CC=C2)C)F)C2=CC=CC=C2)C | C25H20FN3O2
